US08648201B2
150 mg (0.605 mmol) of 2-amino-5-iodopyridine-3-carbaldehyde and 413 mg (1.089 mmol) of tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)pyrazol-1-yl]piperidine-1-carboxylate are dissolved in 2.3 ml of N,N-dimethylformamide in a nitrogen-filled microwave vessel, and 1.7 ml (3.4 mmol) of 2M sodium carbonate solution and 35 mg (0.030 mmol) of tetrakis(triphenylphosphine)palladium(0) are added. The reaction solution is irradiated with microwaves for 30 min at 120° C. in the Biotage SmithSynthesizer. The reaction mixture is cooled to room temperature and filtered. The filtrate is evaporated to dryness. The oily residue is purified by means of RP-HPLC, giving tert-butyl 4-[4-(6-amino-5-formylpyridin-3-yl)pyrazol-1-yl]-piperidine-1-carboxylate; HPLC-MS [M+H]+ 372.2.

reactant | 2-amino-5-iodopyridine-3-carbaldehyde | 0.605 mmol, 150 mg | NC1=NC=C(C=C1C=O)I | C6H5IN2O
reactant | tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)pyrazol-1-yl]piperidine-1-carboxylate | 1.089 mmol, 413 mg | CC1(OC(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C20H33N3O4
reactant | sodium carbonate | 3.4 mmol, 2M, 1.7 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 2.3 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.030 mmol, 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-[4-(6-amino-5-formylpyridin-3-yl)pyrazol-1-yl]-piperidine-1-carboxylate | NC1=C(C=C(C=N1)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C=O | C19H25N5O3
